US04806538
To a mixture of (3R,6R)-3-[(R)-1-(1-methylindol-3-yl)ethyl]-6-(1-methyl-2-pyridiniomethyl)piperazine-2,5-dione iodide (0.12 g), methanol (1.2 ml), and water (1.2 ml) was added sodium borohydride (0.12 g). The mixture was stirred on an ice bath for 1 hour, diluted with water (10 ml), and set aside in a refrigerator overnight. A precipitated solid was filtered, washed with water, and dried in vacuo to afford (3R,6R)-3-[(R)-1-methylindol-3-yl)ethyl]-6-[(RS)-1-methyl-1,2,3,6-tetrahydropyridin-6-yl-methyl]piperazine-2,5-dione (0.03 g).

reactant | (3R,6R)-3-[(R)-1-(1-methylindol-3-yl)ethyl]-6-(1-methyl-2-pyridiniomethyl)piperazine-2,5-dione iodide | 0.12 g | [I-].CN1C=C(C2=CC=CC=C12)[C@@H](C)[C@@H]1C(N[C@@H](C(N1)=O)C[CH2+]1N(C=CC=C1)C)=O
reactant | methanol | 1.2 ml | CO | CH4O
reactant | sodium borohydride | 0.12 g | [BH4-].[Na+]
solvent | water | 10 ml | O | H2O
solvent | water | 1.2 ml | O | H2O
product | 6-[(RS)-1-methyl-1,2,3,6-tetrahydropyridin-6-yl-methyl]piperazine-2,5-dione | 0.03 g | CN1CCC=CC1CC1C(NCC(N1)=O)=O | C11H17N3O2
